US07985755B2
Step 5: 5-[4-(2,6-Difluorophenoxy)cyclohexyl methoxy]quinazoline-2,4-diamine
Cyclization of 2-[4-(2,6-difluorophenoxy)cyclohexylmethoxy]-6-fluorobenzonitrile was carried out using Method F (95 mg; 0.26 mmol) and guanidine carbonate (43 mg; 0.26 mmol) in 1.5 mL of dimethylacetamide. Material was purified using C18 reverse phase silica and 0-100% acetonitrile in water gradient to give 9 mg of title compound. (9% yield. 1HNMR (400 MHz, DMSO-d6) δ 7.37 (m, 1H), 7.14 (m, 5H), 6.77 (m, 1H), 6.51 (m, 1H), 5.96 (br s, 2H), 5.7 (s, 1H), 4.02 (m, 3H), 2.02 (m, 4H), 1.62 (m, 4H). MS m/z (ESI) 401 (M+H)+.

reactant | 2-[4-(2,6-difluorophenoxy)cyclohexylmethoxy]-6-fluorobenzonitrile | FC1=C(OC2CCC(CC2)COC2=C(C#N)C(=CC=C2)F)C(=CC=C1)F | C20H18F3NO2
reactant | guanidine carbonate | 0.26 mmol, 43 mg | C(O)(O)=O.NC(=N)N
solvent | dimethylacetamide | 1.5 mL | CC(=O)N(C)C | C4H9NO
product | 5-[4-(2,6-Difluorophenoxy)cyclohexyl methoxy]quinazoline-2,4-diamine | 9 mg, 9% yield | FC1=C(OC2CCC(CC2)COC2=C3C(=NC(=NC3=CC=C2)N)N)C(=CC=C1)F | C21H22F2N4O2
